US07414142B2
5-{4-[(1E)-N-hydroxyethanimidoyl]phenyl}-1-methyl-1H-pyrrole-2-carbonitrile
The title compound was prepared from 5-(4-acetylphenyl)-1-methyl-1H-pyrrole-2-carbonitrile and hydroxylamine hydrochloride salt according to the procedure described in example 1. MS (ESI) m/z 240; HRMS: calcd for C14H13N3O+H+, 240.11314; found (ESI, [M+H]+), 240.1126.

reactant | 5-(4-acetylphenyl)-1-methyl-1H-pyrrole-2-carbonitrile | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(N1C)C#N | C14H12N2O
reactant | hydroxylamine hydrochloride salt | Cl.NO
product | 5-{4-[(1E)-N-hydroxyethanimidoyl]phenyl}-1-methyl-1H-pyrrole-2-carbonitrile | O/N=C(\C)/C1=CC=C(C=C1)C1=CC=C(N1C)C#N | C14H13N3O
